US08440711B2
Methyl 2-fluoro-2-(3-nitrophenyl)propanoate (1.0 g, 4.5 mmol) was added by portion to a suspension of Fe in a mixture of 1:5:0.05H2O/MeOH/37% HCl (50 ml). The solution was refluxed for 1 hour. After cooling at room temperature, the reaction mixture was diluted with a saturated solution of NaHCO3 (50 ml), trasferred into a separator funnel and extracted with EtOAc (3×100 mL), dried over Na2SO4 and evaporated under vacuum to give pure methyl 2-(3-aminophenyl)-2-fluoropropanoate as a yellow oil (0.81 g, yield 91%). 1H-NMR (CDCl3) δ 7.15 (t, 1H, J=7 Hz), 6.85-6.75 (m, 2H), 6.75 (t, 1H, J=7 Hz), 3.80 (bs, 3H+NH2), 1.95 (d, 3H, J=23 Hz).

reactant | Methyl 2-fluoro-2-(3-nitrophenyl)propanoate | 4.5 mmol, 1.0 g | FC(C(=O)OC)(C)C1=CC(=CC=C1)[N+](=O)[O-] | C10H10FNO4
reactant | MeOH | 50 ml | CO | CH4O
solvent | NaHCO3 | 50 ml | C(=O)(O)[O-].[Na+]
catalyst | Fe | [Fe] | Fe
product | methyl 2-(3-aminophenyl)-2-fluoropropanoate | 0.81 g, yield 91% | NC=1C=C(C=CC1)C(C(=O)OC)(C)F | C10H12FNO2
